US07544801B2
In a 100 ml beaker, 0.5 g (1.239 mmol) of 7-ethylcamptothecin, 0.32 g of 5% hydrogenation catalyst Pt/C (containing 0.028 mmol of platinum) and 0.025 ml (0.352 mmol) of dimethyl sulfoxide are added to 70 ml of acetic acid. The obtained suspension is quantitatively transferred into a 100 ml autoclave. After closure, the autoclave is flushed three times with nitrogen at the pressure of 0.5 MPa and then three times with hydrogen at the pressure of 0.5 MPa. The temperature is adjusted to 65° C. and the mixture is stirred at 950 r.p.m. The hydrogen pressure is adjusted to 0.5 MPa. After 43.5 hours the consumption of hydrogen stops and the procedure is terminated. After cooling to 25° C., the stirring is stopped and the internal pressure is equilibrated with the ambient atmosphere. The autoclave is flushed three times with nitrogen, the hydrogenation catalyst is removed from the hydrogenation mixture by filtration under pressure of nitrogen and the catalyst cake is washed with 10 ml of acetic acid. The obtained solution (80 ml) of 7-ethyl-1,2,6,7-tetrahydrocamptothecin is immediately added under vigorous stirring into a 250 ml one-necked flask containing 22 ml (1.218 mol) of water and 0.77 g (2.343 mmol) of iodobenzene diacetate. The obtained solution is stirred for 15 minutes at 22° C. Then the solvent is evaporated and the residue is mixed with 10 ml of acetonitrile. The obtained suspension is homogenized by sonication. The solid 7-ethyl-10-hydroxycamptothecin is isolated by filtration, washed on the filter with 10 ml of acetonitrile and dried to the constant weight in a vacuum oven at 60° C. to 65° C. The yield of 7-ethyl-10-hydroxycamptothecin is 0.283 g (58.3%). Its relative purity, determined by high performance liquid chromatography, is 90.2%.

reactant | 7-ethylcamptothecin | 1.239 mmol, 0.5 g | CCC1=C2CN3C(=CC4=C(C3=O)COC(=O)[C@@]4(CC)O)C2=NC5=CC=CC=C51 | C22H20N2O4
reactant | dimethyl sulfoxide | 0.352 mmol, 0.025 ml | CS(=O)C | C2H6OS
reactant | water | 1.218 mol, 22 ml | O | H2O
reactant | iodobenzene diacetate | 2.343 mmol, 0.77 g | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
catalyst | Pt/C | 0.028 mmol | [Pt] | Pt
solvent | acetic acid | 70 ml | C(C)(=O)O | C2H4O2
product | 7-ethyl-10-hydroxycamptothecin | CCC1=C2C(=CC3=C(N2)C4=CC5=C(COC(=O)[C@@]5(CC)O)C(=O)N4C3)C(=O)C=C1 | C22H20N2O5
